US07135495B2
2-(2-methylindol-3-yl)acetic acid benzyl ester
Under argon gas, potassium carbonate (2.52 g) and benzyl bromide (1.2 mL) were added to dimethyl formamide (20 mL) solution containing 2-(2-methylindol-3-yl)acetic acid (1.73 g), which was stirred at room temperature for 2 hours. The reaction mixture was radiationally cooled and water was added, and then the mixture was extracted by ethyl acetate. The extract was sequentially washed with water and saturated brine and dried by sulfuric anhydride sodium, and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give a title compound (2.63 g) having the following physical properties was obtained.

reactant | potassium carbonate | 2.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
reactant | 2-(2-methylindol-3-yl)acetic acid | 1.73 g | CC=1NC2=CC=CC=C2C1CC(=O)O | C11H11NO2
solvent | water | O | H2O
product | 2-(2-methylindol-3-yl)acetic acid benzyl ester | 2.63 g | C(C1=CC=CC=C1)OC(CC1=C(NC2=CC=CC=C12)C)=O | C18H17NO2
